US04415572
To a mixture of 1.2 g of 5-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium carbonate and 20 ml of DMF was added 858 mg of 3,4-dimethoxybenzyl chloride and the mixture was stirred at 70°-80° C. for 2 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography. The residue was converted to hydrochloric acid salt to give 610 mg of 5-[4-(3,4-dimethoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride, m.p. 270°-272.5° C. (decomp.).

reactant | 5-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 3,4-dimethoxybenzyl chloride | 858 mg | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
solvent | water | O | H2O
product | 5-[4-(3,4-dimethoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride | 610 mg | Cl.Cl.COC=1C=C(CN2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=CC1OC | InChI=1S/C22H27N3O3.2ClH/c1-27-20-8-6-16(14-21(20)28-2)15-24-10-12-25(13-11-24)19-5-3-4-18-17(19)7-9-22(26)23-18;;/h3-6,8,14H,7,9-13,15H2,1-2H3,(H,23,26);2*1H
